US04076938
244 g of allyl mercaptan is added to a solution of 132 g of sodium hydroxide in 750 ml of water, and subsequently at room temperature 514 g of 2-ethyl-2-cyanohydrazinecarboxylic acid ethyl ester is added dropwise. After one hour's refluxing, there is added to the cooled solution 198 g of glacial acetic acid. The oily phase is separated and concentrated in vacuo to dryness. There is obtained 260 g (43% of theory) of 1-ethyl-5-allylthio-3-hydroxy-1,2,4-triazole, m.p. 74°-76° C.

reactant | allyl mercaptan | 244 g | C(C=C)S | C3H6S
reactant | sodium hydroxide | 132 g | [OH-].[Na+]
reactant | 2-ethyl-2-cyanohydrazinecarboxylic acid ethyl ester | 514 g | C(C)OC(=O)NN(C#N)CC | C6H11N3O2
reactant | acetic acid | 198 g | C(C)(=O)O | C2H4O2
solvent | water | 750 ml | O | H2O
product | 1-ethyl-5-allylthio-3-hydroxy-1,2,4-triazole | 260 g, 43% | C(C)N1N=C(N=C1SCC=C)O | C7H11N3OS
